2176-04-15 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2176-4-14**] 08:07 AM
   MRSA admit swab
 BLOOD CULTURED - At [**2176-4-14**] 02:01 PM
   central line
 URINE CULTURE - At [**2176-4-14**] 02:01 PM
 INVASIVE VENTILATION - START [**2176-4-15**] 01:53 AM
 FEVER - 102.6
F - [**2176-4-14**] 08:00 PM
   - d/w son her current disposition
   - ABG still respiratory alkalosis
   - CSF from shunt:  263 WBC, 94% PMN
   - IVIg x 1 per BMT
   - continuing meropenem, changed gent to cipro for better CSF
   penetration, increased dose of dapto for better CSF penetration
   - nasopharyngeal aspirate negative viral screen
   - induced sputum not done
   - has contrast allergy, got non-contrast CT chest with infiltrate vs
   atelectasis LLL
   - 10-15 beat NSVT, having lots of ectopy, lytes repleted
   - 2400:  SVT to the 170s, given fluid, metoprolol 5 mg IV x 2 followed
   by diltiazem 15 mg IV-->HR fell to 60s, but BP also dropped from SBP
   110 to SBP 60s-70s
   - 0030-0130:  attempting to place radial arterial line unsuccessfully,
   BP on the cuff mostly 60s-80s
   - 0130:  asystole, code blue, regained perfusing rhythm after epi x 2
   mg, atropine x 2mg, 2 amps calcium chloride
   - received 4 grams calcium gluconate + 2 amps calcium chloride for
   presumed calcium channel blocker toxicity, also gave glucagon 5 mg x 1
   for possible component of beta blocker toxicity
   - sedating with fentanyl/midazolam to try to improve vent synchrony
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Gentamicin - [**2176-4-14**] 06:30 PM
   Acyclovir - [**2176-4-14**] 06:54 PM
   Micafungin - [**2176-4-14**] 08:17 PM
   Ciprofloxacin - [**2176-4-14**] 10:46 PM
   Daptomycin - [**2176-4-14**] 11:39 PM
   Meropenem - [**2176-4-15**] 04:00 AM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-4-14**] 09:39 AM
   Fentanyl - [**2176-4-15**] 03:08 AM
   Midazolam (Versed) - [**2176-4-15**] 03:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-15**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 35.7
C (96.3
   HR: 101 (68 - 139) bpm
   BP: 114/79(87) {76/35(52) - 199/118(122)} mmHg
   RR: 30 (18 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,009 mL
                                                                  3,141 mL
   PO:
             TF:
   IVF:
                                                                  3,456 mL
                                                                  3,128 mL
   Blood products:
                                                                     74 mL
   Total out:
                                                                  3,050 mL
                                                                  1,685 mL
   Urine:
                                                                  3,050 mL
                                                                  1,685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,959 mL
                                                                  1,456 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   RR (Set): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.28/26/269/13/-12
   Ve: 15.9 L/min
   PaO2 / FiO2: 538
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   37 K/uL
   9.8 g/dL
   40 mg/dL
   0.8 mg/dL
   13 mEq/L
   5.0 mEq/L
   23 mg/dL
   117 mEq/L
   142 mEq/L
   30.6 %
   0.9 K/uL
        [image002.jpg]
                             [**2176-4-14**]  04:42 PM
                             [**2176-4-14**]  06:50 PM
                             [**2176-4-14**]  10:44 PM
                             [**2176-4-15**]  01:30 AM
                             [**2176-4-15**]  01:43 AM
                             [**2176-4-15**]  02:47 AM
                             [**2176-4-15**]  03:15 AM
                             [**2176-4-15**]  04:32 AM
                             [**2176-4-15**]  04:50 AM
   WBC
   0.9
   Hct
   26.6
   30.6
   Plt
   37
   Cr
   0.6
   0.3
   0.8
   0.8
   TCO2
   23
   22
   7
   9
   13
   Glucose
   118
   99
   83
   40
   Other labs: PT / PTT / INR:22.5/102.0/2.2, ALT / AST:[**Telephone/Fax (1) 6012**], Alk Phos
   / T Bili:336/1.6, Fibrinogen:784 mg/dL, Lactic Acid:4.7 mmol/L,
   Albumin:2.0 g/dL, LDH:341 IU/L, Ca++:13.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:6.0 mg/dL
   CSF:  263 WBC, 94% PMN, 6 lymphs, 33 RBC, 123 protein, 73 glucose.
   HSV, toxo, CMV, EBV pending
   Non-contrast chest CT:
   1. Peripheral wedge-shaped left upper lobe consolidation, previously
   seen as
   an area of bronchiectasis ([**2169-12-30**]), ground-glass ([**2172-4-8**]), and
   consolidation ([**2172-3-31**]) - findings suggest recurrent infection in a
   region
   of focal bronchiectasis.
   2. New small left and tiny right pleural effusions.
   3. Scattered tree-in-[**Male First Name (un) **] opacities which may represent inflammation or
   infection.
   4. Extensive chest wall and mediastinal collateral vascularization and
   prominence of the azygos vein, likely due to known occlusion of the SVC
   and
   brachiocephalic veins.
   Assessment and Plan
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   This is a 60 year old woman with ALL and recent VRE bacteremia who
   comes with acute-on-chronic poor medical status, with increasing
   tachypnea, tachycardia, and temperature.
   #) s/p asystolic arrest:  Likely cause was toxicity from calcium
   channel blockade.  Her tachyarthymia may have been secondary to
   sympathetic output from fevers.
   - monitor electrolytes and replete PRN
   - no further nodal agents
   #) respiratory failure:  intubated for hypoxic respiratory failure.
   ABGs prior indicated primary metabolic alkalosis. Possibly secondary to
   intracranial process.  Could not evaluate for PE yesterday because of
   reported allergy to contrast (patient was unable to define further.)
   #) fevers:  On ciprofloxacin+dapto+meropenem.  Recent cultures with VRE
   but none since [**4-11**]. Nasopharyngeal aspirate negative, induced sputum
   to be done today.  CSF findings concerning for infection seeding her
   CSF
   - continue antibiotics, changed to improve CSF penetration
   - discuss with ID
   #) ALL:  with recent recurrent CNS disease.   Her hospital course thus
   far has been characterized by:
   The patient was found to have recurrent bone marrow as well as CNS
   disease after presenting with dizziness. After C/T/L spine imaging, the
   patient's CSF was sampled and she was given IT MTX through an Ommaya
   biweekly for 2 weeks after her CSF cleared on [**2176-4-1**].  The was then
   treated on a weekly basis starting on XXXX.  The patient was unable to
   tolerate AraC due to severe nausea and vomiting. After one treatment
   with Ara-C, the patient instead recevied intra-thecal methotrexate
   approximately twice per week. Her CSF remained positive for blasts
   until tap on [**2176-4-1**].  She also received a cycle of HyperCVAD. She
   received part A as well as dexamethasone on D11-14 but vincristine was
   not given on D11 due to poor ostomy output and concern for further
   ileus. Peripheral blood smears showed resolution of peripheral blasts
   after 1-2 days of systemic chemotherapy. Her course was complicated by
   mucositis, poorly healing aphthous ulcers and poor po intake secondary
   to pain, which complicated healing and cause electrolyte abnormalities
   requiring significant repletion.  She was changed from oral pain
   medication to a low dose morphine PCA with good effect. She was also
   started on TPN for nutrition and her electrolytes abnormalities
   resolved.
   - f/u cytology of spinal fluid
   - TTE today to evaluate for endocarditis
   - s/p IVIg yesterday
   - continue filgastrim
   - during neutropenic period, continue acyclovir, micafungin, nystatin
   (had past mucositis)
   WORSENING FUNCTIONAL STATUS
   Likely secondary to worsening bacteremia. She has been on daptomycin as
   well as micafungin and meropenem. She has not been growing VRE
   recently, but it is possible that she is continuing to have
   complications of VRE through dapto. Gentamicin was added shortly before
   her transfer. Lisinopril was d/c
ed yesterday, suggesting continued
   decline in BP is masked somewhat by d/c
ing antihypertensive, adds to
   this slow-moving but potentially serious likely infectious picture. No
   clear source currently. Still neutropenic but large number of
   metas/myelos/etc may suggest imminent recovery.
   - consider CT torso
 w CTA for PE rule-out
   - aggressive fluid resuscitation, continue to evaluate if this either
   brings down O2 sat (consider fluid overload) and/or brings down tachy,
   brings up BP (c/w sepsis); would expect the latter effect to
   predominate
   - continue dapto/gent
   - additional blood cultures, continue surveillance cultures, CIS
   - UA/Ucx
   - follow blood counts closely
   - continue filgrastim
   - has been getting morphine PCA for pain; would emphasize to only have
   pt trigger PCA given increasingly sedated picture
   - MRA/MRV was c/w clot in SVC but appeared to show collateral
   circulation, no indication of SVC syndrome clinically
   - viral assays
   - sputum cultures
induced sputum
   - echocardiogram tomorrow
   ALL
   Has been getting methotrexate evidently, held [**4-12**] for bacteremia.
   Getting neupogen.
   - continue filgrastim
   - check in w heme/onc re recommendations; in particular, discuss
   question of whether IVIG would be indicated now or in future
   - during neutropenic period, continue acyclovir, micafungin, nystatin
   (had past mucositis),
   - CNS tap to evaluate for blasts, new process
   - 4 days ago DLI
   This is a 60 year old woman with ALL and recent VRE bacteremia who
   comes with acute-on-chronic poor medical status, with increasing
   tachypnea, tachycardia, and temperature.
   ICU Care
   Nutrition: nutrition consult for TF recs
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2176-4-14**] 06:30 AM
   Multi Lumen - [**2176-4-14**] 06:36 AM
   20 Gauge - [**2176-4-14**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-04-15 07:12:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2176-4-14**] 08:07 AM
   MRSA admit swab
 BLOOD CULTURED - At [**2176-4-14**] 02:01 PM
   central line
 URINE CULTURE - At [**2176-4-14**] 02:01 PM
 INVASIVE VENTILATION - START [**2176-4-15**] 01:53 AM
 FEVER - 102.6
F - [**2176-4-14**] 08:00 PM
   - d/w son her current disposition
   - ABG still respiratory alkalosis
   - CSF from shunt:  263 WBC, 94% PMN
   - IVIg x 1 per BMT
   - continuing meropenem, changed gent to cipro for better CSF
   penetration, increased dose of dapto for better CSF penetration
   - nasopharyngeal aspirate negative viral screen
   - induced sputum not done
   - has contrast allergy, got non-contrast CT chest with infiltrate vs
   atelectasis LLL
   - 10-15 beat NSVT, having lots of ectopy, lytes repleted
   - 2400:  SVT to the 170s, given fluid, metoprolol 5 mg IV x 2 followed
   by diltiazem 15 mg IV-->HR fell to 60s, but BP also dropped from SBP
   110 to SBP 60s-70s
   - 0030-0130:  attempting to place radial arterial line unsuccessfully,
   BP on the cuff mostly 60s-80s
   - 0130:  asystole, code blue, regained perfusing rhythm after epi x 2
   mg, atropine x 2mg, 2 amps calcium chloride
   - received 4 grams calcium gluconate + 2 amps calcium chloride for
   presumed calcium channel blocker toxicity, also gave glucagon 5 mg x 1
   for possible component of beta blocker toxicity
   - sedating with fentanyl/midazolam to try to improve vent synchrony
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Gentamicin - [**2176-4-14**] 06:30 PM
   Acyclovir - [**2176-4-14**] 06:54 PM
   Micafungin - [**2176-4-14**] 08:17 PM
   Ciprofloxacin - [**2176-4-14**] 10:46 PM
   Daptomycin - [**2176-4-14**] 11:39 PM
   Meropenem - [**2176-4-15**] 04:00 AM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-4-14**] 09:39 AM
   Fentanyl - [**2176-4-15**] 03:08 AM
   Midazolam (Versed) - [**2176-4-15**] 03:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-15**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 35.7
C (96.3
   HR: 101 (68 - 139) bpm
   BP: 114/79(87) {76/35(52) - 199/118(122)} mmHg
   RR: 30 (18 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,009 mL
                                                                  3,141 mL
   PO:
             TF:
   IVF:
                                                                  3,456 mL
                                                                  3,128 mL
   Blood products:
                                                                     74 mL
   Total out:
                                                                  3,050 mL
                                                                  1,685 mL
   Urine:
                                                                  3,050 mL
                                                                  1,685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,959 mL
                                                                  1,456 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   RR (Set): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.28/26/269/13/-12
   Ve: 15.9 L/min
   PaO2 / FiO2: 538
   Physical Examination
   General:  intubated, sedated but flickers eyes in reponse to voice
   HEENT:  dry mucous membranes
   Heart:  regular, no audible murmur
   Lungs:  clear anteriorly
   Abdomen:  soft
   Extremities:  cool, distal pulses palpable but thready
   Labs / Radiology
   37 K/uL
   9.8 g/dL
   40 mg/dL
   0.8 mg/dL
   13 mEq/L
   5.0 mEq/L
   23 mg/dL
   117 mEq/L
   142 mEq/L
   30.6 %
   0.9 K/uL
        [image002.jpg]
                             [**2176-4-14**]  04:42 PM
                             [**2176-4-14**]  06:50 PM
                             [**2176-4-14**]  10:44 PM
                             [**2176-4-15**]  01:30 AM
                             [**2176-4-15**]  01:43 AM
                             [**2176-4-15**]  02:47 AM
                             [**2176-4-15**]  03:15 AM
                             [**2176-4-15**]  04:32 AM
                             [**2176-4-15**]  04:50 AM
   WBC
   0.9
   Hct
   26.6
   30.6
   Plt
   37
   Cr
   0.6
   0.3
   0.8
   0.8
   TCO2
   23
   22
   7
   9
   13
   Glucose
   118
   99
   83
   40
   Other labs: PT / PTT / INR:22.5/102.0/2.2, ALT / AST:[**Telephone/Fax (1) 6012**], Alk Phos
   / T Bili:336/1.6, Fibrinogen:784 mg/dL, Lactic Acid:4.7 mmol/L,
   Albumin:2.0 g/dL, LDH:341 IU/L, Ca++:13.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:6.0 mg/dL
   CSF:  263 WBC, 94% PMN, 6 lymphs, 33 RBC, 123 protein, 73 glucose.
   HSV, toxo, CMV, EBV pending
   Non-contrast chest CT:
   1. Peripheral wedge-shaped left upper lobe consolidation, previously
   seen as
   an area of bronchiectasis ([**2169-12-30**]), ground-glass ([**2172-4-8**]), and
   consolidation ([**2172-3-31**]) - findings suggest recurrent infection in a
   region
   of focal bronchiectasis.
   2. New small left and tiny right pleural effusions.
   3. Scattered tree-in-[**Male First Name (un) **] opacities which may represent inflammation or
   infection.
   4. Extensive chest wall and mediastinal collateral vascularization and
   prominence of the azygos vein, likely due to known occlusion of the SVC
   and
   brachiocephalic veins.
   Assessment and Plan
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   This is a 60 year old woman with ALL and recent VRE bacteremia who
   comes with acute-on-chronic poor medical status, with increasing
   tachypnea, tachycardia, and temperature.
   #) s/p asystolic arrest:  Likely cause was toxicity from calcium
   channel blockade.  Her tachyarthymia may have been secondary to
   sympathetic output from fevers in the setting of a heart compromised by
   prior anthracycline toxicity.  Currently her pupils are reactive and
   she responds to stimulation.
   - monitor electrolytes q6h and replete PRN
   - trend lactate
   - no further nodal agents
   - head CT to evaluate for severe neurologic damage
   .
   #) respiratory failure:  intubated in the peri-code setting.  ABGs
   during the day yesterday indicated primary metabolic alkalosis.
   Possibilities for etiology include intracranial process, drug effect,
   PE.  Could not evaluate for PE yesterday because of reported allergy to
   contrast (patient was unable to define further.)  No obvious drug
   offenders on her list.
   - CT head to evaluate for intracranial process
   - LENIs to evaluate for source of PE
   - wean FiO2 and PEEP as tolerated
   .
   #) hypotension:  blood pressures were very labile prior to the code.
   She is currently requiring a small dose of neo.
   - wean neo as tolerated
   .
   #) fevers:  On ciprofloxacin+dapto+meropenem.  Recent cultures with VRE
   but none since [**4-11**]. CSF findings concerning for infection seeding her
   CSF.  It is possible that her Ommaya is confaminated.  Also would be
   concerned for infected clots given her known upper extremity DVTs
   and/or for cardiac vegetations.  No evidence of septic emboli on lung
   CT yesterday.  Nasopharyngeal aspirate negative, induced sputum to be
   done today.
   - continue antibiotics, changed to improve CSF penetration
   - discuss with ID antibiotic coverage
   - discuss with oncology the possibility of an infected Ommaya
   - TTE to evaluate valves for vegetation
   - f/u CSF studies
   - induced sputum
   .
   #) ALL:  with recent recurrent CNS disease.   This hospitalization she
   was treated with intrathecal chemotherapy and DLI with resolution of
   CSF blasts as of [**2176-4-1**].    Her CSF picture currently
   - f/u cytology of spinal fluid
   - TTE today to evaluate for endocarditis
   - s/p IVIg yesterday
   - continue filgastrim
   - during neutropenic period, continue acyclovir, micafungin, nystatin
   (had past mucositis)
   - discuss with
   .
   #) increased LFTs:  appears to be shock liver
   - continue to monitor
   .
   #)  increased urin output:  concerning for DI in the setting of a
   possible intra-cranial process
   - check serum/urine osms
   .
   #) Coagulopathy:  concerning for DIC
   - follow DIC labs q4h today
   - transfuse blood and products PRN
   .
   #)  Hypoglycemia:  noted on morning labs, s/p
 amp d50.  Possibly
   secondary to insulin in TPN, which was stopped overnight.
   - follow FSBG
   - D5
   ICU Care
   Nutrition: nutrition consult for TF recs
   Glycemic Control:
   Lines:   contact IR for arterial line placement today given difficulty
   placing at bedside
   Indwelling Port (PortaCath) - [**2176-4-14**] 06:30 AM
   Multi Lumen - [**2176-4-14**] 06:36 AM
   20 Gauge - [**2176-4-14**] 03:41 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code (confirmed last night with her healthcare
   proxy)
   Disposition: ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr
   [**Last Name (STitle) **]
s note, including the assessment and plan. I would emphasize and
   add the following points:
   60 yo F with ALL relapse, transferred to with tachypnea, tachycardia,
   fevers. She received IT methotrexate recently and has an Ommaya shunt.
   VRE bacteremia..  She has a h/o svt/atrial tach with chemo related
   cardiotoxicity. Yesterday had continued resp alkalosis. Ommaya shunt
   tapped
new leukocytosis, neg gram stain, cx pending.  Noncontrast
   chest CT showed LLL infiltrate/atelectasis.  Increased ectopy/svt with
   HR to 160's--without hypotension.  Was given 5 Lopressor IV X 2, 15 IV
   dilt with initial improved rate control then developed hypotension and
   asystolic arrest. Intubated.  Started on Neo. Suspected calcium channel
   blocker toxicity.  Received calcium chloride/gluconate/glucagon.
   102.6-->96.3  68-139  118/60  acv 500/24/10/50%
   perrla, withdraws to touch, but minimally responsive on small amt
   sedated, intubated, coarse, rr tachy, + BS soft, L fem line
   Labs reviewed and noted above
   cxr with diffuse patchy airspace ds r > l, l effusion/atelectasis
   Agree with plan to evaluate with head CT given persistent resp
   alkalosis yesterday, CSF findings, and increased urine output
   concerning for central process (?DI). Awaiting lenis given some concern
   for possible pe contributing to this prior alkalotic picture as has
   contrast allergy and unable to tolerate CTA. Consult neurosurgery about
   whether Ommaya may be contaminated given leukocytosis on tap.  Continue
   broad antibx coverage including csf coverage following id recs and f/u
   all cx data.  Check TTE to reeval for vegetations/sbe.  Potential
   infectious nedis includes also port and known UE DVT as well as pna.
   Continue ACV support and wean neo for maps > 65.  Increased lfts appear
   most c/w shock liver given cardiac arrest
continue to trend.  Given
   elevated INR
follow coags and dic labs.  Hypoglycemia felt [**1-1**] to
   TPN/insulin
now without dedicated port. Continue D5 and follow. Check
   serum/urine osms given increased urine output.  Maintain adequate fluid
   support.   Access is an issue given multiple clotted vessels.   Has IR
   placed fem line 1 PIV, port.  Continue boots, PPI.  Remains full code.
   Remainder as above.
   Critically ill
   Time spent: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2176-4-15**] 06:21 PM ------

2176-04-16 11:59:00 Physician Resident Progress Note
Chief Complaint: VRE infection associated with Omaya port, s/p
   neurosurgical procedure to remove port
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2176-4-15**] 12:49 PM
   Read: "The left atrium is normal in size. No atrial septal defect is
   seen by 2D or color Doppler. Left ventricular wall thicknesses and
   cavity size are normal. There is severe global left ventricular
   hypokinesis (LVEF = 20 %). No masses or thrombi are seen in the left
   ventricle. There is no ventricular septal defect. Right ventricular
   chamber size is normal. with mild global free wall hypokinesis. The
   aortic valve leaflets (3) are mildly thickened but aortic stenosis is
   not present. No masses or vegetations are seen on the aortic valve. No
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. No mass or vegetation is seen on the mitral valve. Mild (1+)
   mitral regurgitation is seen. The pulmonary artery systolic pressure
   could not be determined. There is a small pericardial effusion. There
   are no echocardiographic signs of tamponade.  IMPRESSION:
   Cardiomyopathy. No valvular vegetations seen."
 ULTRASOUND - At [**2176-4-15**] 01:50 PM
   No DVT.
 OR SENT - At [**2176-4-15**] 09:30 PM
   Pt transferred from [**Hospital Ward Name 77**] 4 and arrived on unit at 2045.  Anesthesia
   and neuro sug up to unit and escorted pt to OR at 2130.
 OR RECEIVED - At [**2176-4-15**] 11:45 PM
   No op note in OMR at time of re-admission to [**Hospital Unit Name 10**]; per brief chart
   note, operation involved:
   * removal of Omaya port (PATHOLOGY # [**-7/1942**])
   * craniotomy for exploration and evacuation of SDH
   Note reports no significant blood loss
   2 units RBC and 2 units FFP given
   Culture sent, NGTD; gram stain showed:
      GRAM STAIN (Final [**2176-4-16**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
 ARTERIAL LINE - START [**2176-4-16**] 12:48 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-4-14**] 10:46 PM
   Daptomycin - [**2176-4-14**] 11:39 PM
   Vancomycin - [**2176-4-16**] 12:00 AM
   Linezolid - [**2176-4-16**] 02:17 PM
   Meropenem - [**2176-4-16**] 03:54 PM
   Gentamicin - [**2176-4-16**] 10:05 PM
   Micafungin - [**2176-4-16**] 10:15 PM
   Acyclovir - [**2176-4-16**] 10:57 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2176-4-16**] 03:00 AM
   Furosemide (Lasix) - [**2176-4-16**] 07:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-17**] 12:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 99 (98 - 128) bpm
   BP: 117/81(95) {98/66(79) - 146/101(119)} mmHg
   RR: 26 (16 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,475 mL
                                                                     40 mL
   PO:
             TF:
   IVF:
                                                                  4,763 mL
                                                                     40 mL
   Blood products:
                                                                  1,712 mL
   Total out:
                                                                  2,545 mL
                                                                      0 mL
   Urine:
                                                                  1,395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,930 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 470 (470 - 470) mL
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 131
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.50/26/135/17/0  (TAKEN 10:50 am [**4-15**])
   Ve: 9.7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema, pupils from 3 mm to 1 mm
   in setting of sedation
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   in limited anterior exam
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: some mild erythematous rash on upper chest, none
   seen on torso, no morbilliform rash
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated
   Labs / Radiology
   116 K/uL
   9.9 g/dL
   109 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.1 mEq/L
   33 mg/dL
   112 mEq/L
   143 mEq/L
   27.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2176-4-15**]  09:34 AM
                             [**2176-4-15**]  03:56 PM
                             [**2176-4-15**]  10:15 PM
                             [**2176-4-15**]  10:49 PM
                             [**2176-4-16**]  01:27 AM
                             [**2176-4-16**]  01:50 AM
                             [**2176-4-16**]  04:36 AM
                             [**2176-4-16**]  06:34 AM
                             [**2176-4-16**]  10:50 AM
                             [**2176-4-16**]  02:04 PM
   WBC
   3.5
   3.1
   4.2
   4.2
   Hct
   26.1
   19
   25.9
   30.0
   27.2
   Plt
   54
   128
   120
   116
   Cr
   0.9
   1.0
   1.0
   TCO2
   20
   21
   19
   20
   21
   Glucose
   82
   71
   84
   109
   Other labs: PT / PTT / INR:16.7/42.9/1.5, ALT / AST:1757/3393, Alk Phos
   / T Bili:288/3.5, Amylase / Lipase:250/111, Differential-Neuts:68.0 %,
   Band:7.0 %, Lymph:10.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:536 mg/dL,
   Lactic Acid:2.4 mmol/L, Albumin:2.0 g/dL, LDH:5880 IU/L, Ca++:8.0
   mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   This is a 60 year old woman with a lengthy history of ALL and past
   successful treatment of this, now with recurrence including CNS
   involvement, and likely enterococcal infection of an Omaya port used
   for intrathecal chemotherapy; s/p cardiac arrest, s/p removal of the
   Omaya port and evacuation of SDH; now returned to the [**Hospital Unit Name 10**] for further
   care and continued follow-up by both the ICU team and the BMT team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-14**] 06:36 AM
   20 Gauge - [**2176-4-14**] 03:41 PM
   Arterial Line - [**2176-4-16**] 12:48 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2176-04-16 23:59:00 Physician Resident Progress Note
ACCEPT NOTE:
   Ms. [**Known lastname 5996**] was transferred back to the [**Hospital Unit Name 10**] from [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   MICU/SICU after being transferred from the [**Hospital Unit Name 10**] to the [**Hospital Ward Name **] for
   neurosurgical intervention, detailed below. Metavision vitals reflect
   the 24 hour period of [**4-16**] essentially midnight-to-midnight. She was
   transferred to the [**Hospital Unit Name 10**] earlier in the evening, and remained stable
   during this time. This note is written reflecting my exam at that time
   and reflecting re-exam at 2330.
   Chief Complaint: VRE infection associated with Omaya port, s/p
   neurosurgical procedure to remove port
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2176-4-15**] 12:49 PM
   Read: "The left atrium is normal in size. No atrial septal defect is
   seen by 2D or color Doppler. Left ventricular wall thicknesses and
   cavity size are normal. There is severe global left ventricular
   hypokinesis (LVEF = 20 %). No masses or thrombi are seen in the left
   ventricle. There is no ventricular septal defect. Right ventricular
   chamber size is normal. with mild global free wall hypokinesis. The
   aortic valve leaflets (3) are mildly thickened but aortic stenosis is
   not present. No masses or vegetations are seen on the aortic valve. No
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. No mass or vegetation is seen on the mitral valve. Mild (1+)
   mitral regurgitation is seen. The pulmonary artery systolic pressure
   could not be determined. There is a small pericardial effusion. There
   are no echocardiographic signs of tamponade.  IMPRESSION:
   Cardiomyopathy. No valvular vegetations seen."
 ULTRASOUND - At [**2176-4-15**] 01:50 PM
   No DVT.
 OR SENT - At [**2176-4-15**] 09:30 PM
   Pt transferred from [**Hospital Ward Name 77**] 4 and arrived on unit at 2045.  Anesthesia
   and neuro sug up to unit and escorted pt to OR at 2130.
 OR RECEIVED - At [**2176-4-15**] 11:45 PM
   No op note in OMR at time of re-admission to [**Hospital Unit Name 10**]; per brief chart
   note, operation involved:
   * removal of Omaya port (PATHOLOGY # [**-7/1942**])
   * craniotomy for exploration and evacuation of SDH
   Note reports no significant blood loss
   2 units RBC and 2 units FFP given
   CSF culture sent, NGTD; gram stain showed:
      GRAM STAIN (Final [**2176-4-16**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
 ARTERIAL LINE - START [**2176-4-16**] 12:48 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-4-14**] 10:46 PM
   Daptomycin - [**2176-4-14**] 11:39 PM
   Vancomycin - [**2176-4-16**] 12:00 AM
   Linezolid - [**2176-4-16**] 02:17 PM
   Meropenem - [**2176-4-16**] 03:54 PM
   Gentamicin - [**2176-4-16**] 10:05 PM
   Micafungin - [**2176-4-16**] 10:15 PM
   Acyclovir - [**2176-4-16**] 10:57 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2176-4-16**] 03:00 AM
   Furosemide (Lasix) - [**2176-4-16**] 07:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-17**] 00:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 99 (98 - 128) bpm
   BP: 117/81(95) {98/66(79) - 146/101(119)} mmHg
   RR: 26 (16 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,475 mL
                                                                     40 mL
   PO:
             TF:
   IVF:
                                                                  4,763 mL
                                                                     40 mL
   Blood products:
                                                                  1,712 mL
   Total out:
                                                                  2,545 mL
                                                                      0 mL
   Urine:
                                                                  1,395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,930 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 470 (470 - 470) mL
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 131
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.50/26/135/17/0  (TAKEN 10:50 am [**4-15**])
   Ve: 9.7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema, pupils from 3 mm to 1 mm
   in setting of sedation
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   in limited anterior exam
   Abdominal: Bowel sounds present, Distended; Ostomy in place w
   protuberant ostomy, dark tea-colored fluid in bag. Femoral line in
   place as prior; no infectious signs at line site
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: some mild erythematous rash on upper chest, none
   seen on torso, no morbilliform rash
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated
   Labs / Radiology
   116 K/uL
   9.9 g/dL
   109 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.1 mEq/L
   33 mg/dL
   112 mEq/L
   143 mEq/L
   27.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2176-4-15**]  09:34 AM
                             [**2176-4-15**]  03:56 PM
                             [**2176-4-15**]  10:15 PM
                             [**2176-4-15**]  10:49 PM
                             [**2176-4-16**]  01:27 AM
                             [**2176-4-16**]  01:50 AM
                             [**2176-4-16**]  04:36 AM
                             [**2176-4-16**]  06:34 AM
                             [**2176-4-16**]  10:50 AM
                             [**2176-4-16**]  02:04 PM
   WBC
   3.5
   3.1
   4.2
   4.2
   Hct
   26.1
   19
   25.9
   30.0
   27.2
   Plt
   54
   128
   120
   116
   Cr
   0.9
   1.0
   1.0
   TCO2
   20
   21
   19
   20
   21
   Glucose
   82
   71
   84
   109
   Other labs: PT / PTT / INR:16.7/42.9/1.5, ALT / AST:1757/3393, Alk Phos
   / T Bili:288/3.5, Amylase / Lipase:250/111, Differential-Neuts:68.0 %,
   Band:7.0 %, Lymph:10.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:536 mg/dL,
   Lactic Acid:2.4 mmol/L, Albumin:2.0 g/dL, LDH:5880 IU/L, Ca++:8.0
   mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   This is a 60 year old woman with a lengthy history of ALL and past
   successful treatment of this, now with recurrence including CNS
   involvement, and likely enterococcal infection of an Omaya port used
   for intrathecal chemotherapy; s/p cardiac arrest, s/p removal of the
   Omaya port and evacuation of SDH; now returned to the [**Hospital Unit Name 10**] for further
   care and continued follow-up by both the ICU team and the BMT team.
   ALTERED MENTAL STATUS
   CNS involvement by ALL as well as by enterococcus in association with
   the Omaya port, and SDH of chronic appearance seen on head CT s/p
   cardiac arrest, now s/p neurosurgical procedure as above. In
   retrospect, the subdural hematoma and gram-positive (likely
   enterococcal) infection may have been responsible for a considerable
   portion of what was described on her prior arrival to the [**Hospital Unit Name 10**] as
poor
   functional status
a vague worsening of cognition and function
   consistent with a diffuse cerebral process. Neurological exam currently
   showing promptly reactive pupils and some retreat of feet to noxious
   stimuli, but otherwise non-responsive in setting of sedation on vent.
   Assessment of neuro status confounded somewhat by her cardiac arrest,
   which may have created some anoxic brain injury.
   -          follow up neurosurgical recommendations
   -          continue to follow neurological exam
   -          titrate down sedation as tolerated, continue to evaluate
   mental status closely in this setting
   -          follow up CNS cultures, culture from Omaya device
   -          continue antibiotics as detailed below.
   -          Discuss w BMT service whether there are criteria that would
   allow return to treatment of CNS disease; may simply require ongoing
   assessment of relative risks and benefits in context
   [**Name (NI) 6041**] INFECTION, c/w VRE
   Per ID recommendations, linezolid superior to daptomycin for coverage
   of CNS infection. Has the unfortunate advantage of suppressing bone
   marrow in immune-compromised patient. Immediate treatment of infection
   is current priority. Should continue to weigh risks and benefits of
   anti-VRE abx choice.
   -          continue linezolid with gentamicin
   ALL
   Lengthy history with ALL, now recurring. S/p donor lymphocyte infusion.
   Giving G-CSF. Will need treatment for CNS disease at some point.
   -          follow up BMT recommendations
   -          has extensive medications for symptomatic treatment of
   mucositis and esophagitis; continue for now but continue to evaluate
   oral health, consider d/c
ing in setting of ventilation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-14**] 06:36 AM
   20 Gauge - [**2176-4-14**] 03:41 PM
   Arterial Line - [**2176-4-16**] 12:48 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2176-04-17 05:52:00 Physician Resident Progress Note
Chief Complaint: ALL; altered mental status
   24 Hour Events:
   Transferred to [**Hospital Unit Name 10**] from [**Hospital Ward Name **], s/p neurosurgical intervention
   overnight [**2086-4-14**]
 INDWELLING PORT (PORTACATH) - STOP [**2176-4-16**] 07:05 PM
   OMAYA port (IT) (removed in surgery)
 BLOOD CULTURED - At [**2176-4-17**] 04:18 AM (surveillance cultures
   ordered)
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-4-14**] 10:46 PM
   Daptomycin - [**2176-4-14**] 11:39 PM
   Vancomycin - [**2176-4-16**] 12:00 AM
   Micafungin - [**2176-4-16**] 10:15 PM
   Acyclovir - [**2176-4-16**] 10:57 PM
   Meropenem - [**2176-4-17**] 01:03 AM
   Linezolid - [**2176-4-17**] 01:50 AM
   Gentamicin - [**2176-4-17**] 04:18 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2176-4-16**] 07:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Flowsheet Data as of  [**2176-4-17**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 102 (97 - 108) bpm
   BP: 114/80(93) {98/66(79) - 117/84(98)} mmHg
   RR: 26 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,475 mL
                                                                    922 mL
   PO:
             TF:
   IVF:
                                                                  4,763 mL
                                                                    922 mL
   Blood products:
                                                                  1,712 mL
   Total out:
                                                                  2,545 mL
                                                                    313 mL
   Urine:
                                                                  1,395 mL
                                                                    313 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,930 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 470 (470 - 470) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%-->40% this morning
   RSBI: 138
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/25/187/17/-1 (on 50% FiO2)
   Ve: 9.4 L/min
   PaO2 / FiO2: 374
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, dressing in place
   Cardiovascular: (S1: Normal), (S2: Normal), Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present, ostomy bag in place
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   116 K/uL
   10.4 g/dL
   162 mg/dL
   1.1 mg/dL
   17 mEq/L
   3.5 mEq/L
   35 mg/dL
   113 mEq/L
   143 mEq/L
   29.1 %
   11.3 K/uL
        [image002.jpg]
                             [**2176-4-15**]  10:15 PM
                             [**2176-4-15**]  10:49 PM
                             [**2176-4-16**]  01:27 AM
                             [**2176-4-16**]  01:50 AM
                             [**2176-4-16**]  04:36 AM
                             [**2176-4-16**]  06:34 AM
                             [**2176-4-16**]  10:50 AM
                             [**2176-4-16**]  02:04 PM
                             [**2176-4-17**]  02:03 AM
                             [**2176-4-17**]  04:06 AM
   WBC
   3.1
   4.2
   4.2
   11.3
   Hct
   19
   25.9
   30.0
   27.2
   29.1
   Plt
   128
   120
   116
   Cr
   1.0
   1.1
   TCO2
   20
   21
   19
   20
   21
   20
   Glucose
   84
   109
   162
   Other labs: PT / PTT / INR:16.7/42.9/1.5, ALT / AST:1757/3393, Alk Phos
   / T Bili:275/3.0, Amylase / Lipase:76/50, Differential-Neuts:68.0 %,
   Band:7.0 %, Lymph:10.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:536 mg/dL,
   Lactic Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:5880 IU/L, Ca++:7.7
   mg/dL, Mg++:1.6 mg/dL, PO4:2.0 mg/dL
   Lactate:  8.5
   CMV/HSV/EBV/Toxo pending
CSF [**4-16**] pre-op:  2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
            2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI in pairs.
CSF cx [**4-15**]:  NGTD
Omaya [**4-16**]:  No PMN, no micro-organisms
SDH [**4-16**]:  1+ PMN
   Assessment and Plan
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   This is a 60 year old woman with a lengthy history of ALL and past
   successful treatment of this, now with recurrence including CNS
   involvement, and likely enterococcal infection of an Omaya port used
   for intrathecal chemotherapy; s/p cardiac arrest, s/p removal of the
   Omaya port and evacuation of SDH; now returned to the [**Hospital Unit Name 10**] for further
   care and continued follow-up by both the ICU team and the BMT team.
   # ALTERED MENTAL STATUS
   CNS involvement by ALL as well as by enterococcus in association with
   the Omaya port, and SDH of chronic appearance seen on head CT s/p
   cardiac arrest, now s/p neurosurgical procedure as above. In
   retrospect, the subdural hematoma and gram-positive (likely
   enterococcal) infection may have been responsible for a considerable
   portion of what was described on her prior arrival to the [**Hospital Unit Name 10**] as
poor
   functional status
a vague worsening of cognition and function
   consistent with a diffuse cerebral process. Neurological exam currently
   showing promptly reactive pupils and some retreat of feet to noxious
   stimuli, but otherwise non-responsive in setting of sedation on vent.
   Assessment of neuro status confounded somewhat by her cardiac arrest,
   which may have created some anoxic brain injury.
   -          follow up neurosurgical recommendations
   -          continue to follow neurological exam
   -          titrate down sedation as tolerated, continue to evaluate
   mental status closely in this setting
   -          follow up CNS cultures, culture from Omaya device
   -          continue antibiotics as detailed below; current increase in
   neutrophils may allow sooner d/c of these
   -          Discuss w BMT service whether there are criteria that would
   allow return to treatment of CNS disease; may simply require ongoing
   assessment of relative risks and benefits in context
   # GRAM-POSITIVE INFECTION, c/w VRE
   Per ID recommendations, linezolid superior to daptomycin for coverage
   of CNS infection. Has the unfortunate advantage of suppressing bone
   marrow in immune-compromised patient. Immediate treatment of infection
   is current priority. Should continue to weigh risks and benefits of
   anti-VRE abx choice.
   -          continue linezolid with gentamicin
   # ALL
   Lengthy history with ALL, now recurring. S/p donor lymphocyte infusion.
   Giving G-CSF. Will need treatment for CNS disease at some point.
   -          follow up BMT recommendations
   -          has extensive medications for symptomatic treatment of
   mucositis and esophagitis; continue for now but continue to evaluate
   oral health, consider d/c
ing in setting of ventilation
   -          continue filgrastim
   -          follow ANC, appears to be normalizing by CBC/diff
   # S/P ASYSTOLIC ARREST
   Thought to be immediately associated with increase in calcium channel
   blocker dose; this was in response to tachyarrythmia in setting of
   infection. Recent echo shows ongoing cardiac compromise, worsened EF
   compared to earlier in this admission. Difficult to tell at this point
   whether this is a feature of the acute setting of infection and s/p
   arrest, vs an earlier decline that predisposed her to arrest.
   -          follow up echo in [**3-4**] weeks
   -          avoid nodal agents
   -          replete lytes closely
   -          no longer requiring pressors
   RESPIRATORY FAILURE
   Originally intubated in setting of cardiac arrest; kept on vent since
   then. ABGs have suggested metabolic alkalosis. LENIs negative for DVT;
   PE-CT unable to perform because of reported CT contrast allergy.
   Currently on AC settings. Getting ABG to evaluate current status.
   - wean FiO2 and PEEP as tolerated
   .
   FEVERS
   Afebrile post-op. On vanc, linezolid, meropenem, gentamicin,
   micafungin, and acyclovir. This should ensure the death of most of the
   microbial universe. As above, changed to linezolid to cover CNS VRE.
   Following up cultures, etc.
   -          heartening to see increase in WBC, neuts, bands.
   -          Continue filgrastim
   -          Continue abx as above
   ELEVATED LIVER ENZYMES
   Consistent in time and magnitude with shock liver. Appear to possibly
   be at plateau earlier today. Follow closely.
   In summary, this is a 60 year old woman with ALL and a difficult
   hospital course s/p DLI, with apparently resolving neutropenia but now
   s/p craniotomy, cardiac arrest, respiratory failure, and shock liver.
   Currently stable on the vent; hope for improvement with improvement in
   WBC, antibiotics, removal of CNS source of infection. Following cardiac
   and liver function to evaluate for recovery s/p arrest.
   ICU Care
   Nutrition:
   Comments: npo for now; put in for tube feeding recs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-14**] 06:36 AM
   20 Gauge - [**2176-4-14**] 03:41 PM
   Arterial Line - [**2176-4-16**] 12:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2176-04-18 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2176-4-18**] 01:36 AM
   - Neurosurgery recs Q4H neuro recs, avoid subQ heparin until [**4-18**],
   staples out in 2 weeks
   - ID recs decrease gentamicin from Q8H to Q12H, check peak/trough after
   4th dose
   - VRE in CSF
   - code status clarified with BMT and HCP:   full code
   - discussed current status with family including son/HCP
   - stopped Neupogen as counts are recovering
   - OGT placed, TF started
   - off sedation all day but not waking up (switched from fent/midaz
   drips to boluses)
   - NPO for ?TEE in AM, consented by TEE fellow
   - overnight BP trending down into the 80s, lactate rising
giving NS
   bolus in the morning
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Vancomycin - [**2176-4-16**] 12:00 AM
   Gentamicin - [**2176-4-17**] 04:18 AM
   Micafungin - [**2176-4-17**] 07:53 PM
   Acyclovir - [**2176-4-17**] 09:31 PM
   Meropenem - [**2176-4-18**] 12:24 AM
   Linezolid - [**2176-4-18**] 02:13 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-18**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.9
   HR: 96 (91 - 116) bpm
   BP: 86/60(70) {86/60(70) - 120/83(97)} mmHg
   RR: 21 (20 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,764 mL
                                                                  1,425 mL
   PO:
             TF:
                                                                     58 mL
   IVF:
                                                                  2,706 mL
                                                                  1,425 mL
   Blood products:
   Total out:
                                                                  1,418 mL
                                                                    563 mL
   Urine:
                                                                  1,368 mL
                                                                    388 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,346 mL
                                                                    862 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 346 (346 - 346) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 95%
   ABG: 7.49/25/104/17/-1
   Ve: 10.2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Eyes / Conjunctiva: pupils equal and reactive
   Head, Ears, Nose, Throat: Endotracheal tube, dressing in place
   Cardiovascular: normal S1/S2
   Peripheral Vascular: DP pulses intact
   Respiratory / Chest: lungs clear anteriorly
   Abdominal: Soft, Bowel sounds present, ostomy bag in place with  brown
   liquid stool, no apparent abdominal tenderness
   Extremities: warm
   Skin:  diffuse maculopapular erythematous, blanching rash on back
   Neurologic: pupils equal and reactive does not follow commands,
   clinches eyes when they are opened, withdraws to stimulation
   Labs / Radiology
   97 K/uL
   11.3 g/dL
   102 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.7 mEq/L
   34 mg/dL
   114 mEq/L
   145 mEq/L
   33.0 %
   27.3 K/uL
        [image002.jpg]
                             [**2176-4-16**]  01:50 AM
                             [**2176-4-16**]  04:36 AM
                             [**2176-4-16**]  06:34 AM
                             [**2176-4-16**]  10:50 AM
                             [**2176-4-16**]  02:04 PM
                             [**2176-4-17**]  02:03 AM
                             [**2176-4-17**]  04:06 AM
                             [**2176-4-17**]  05:28 PM
                             [**2176-4-18**]  03:55 AM
                             [**2176-4-18**]  04:32 AM
   WBC
   4.2
   7.9
   27.3
   Hct
   27.2
   29.1
   33.0
   Plt
   116
   97
   Cr
   1.1
   1.0
   TCO2
   21
   19
   20
   21
   20
   20
   20
   Glucose
   162
   102
   Other labs: PT / PTT / INR:16.2/38.8/1.4, ALT / AST:1205/385, Alk Phos
   / T Bili:355/2.5, Amylase / Lipase:76/50, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:536 mg/dL,
   Lactic Acid:3.3 mmol/L, Albumin:2.3 g/dL, LDH:1843 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Blood cultures:  NGTD since [**4-11**] VRE
   CSF [**4-16**]:  enterococcus
   CXR [**4-17**]:
   Nasogastric tube ends in the mid stomach, ET tube in standard
   placement.
   Opacification at the lung bases is probably a combination of
   atelectasis and
   small bilateral pleural effusion. Pulmonary edema has cleared from the
   upper
   lungs. Heart size normal although the configuration suggests left
   atrial
   enlargement. ET tube in standard placement. No pneumothorax.
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   This is a 60 year old woman with a lengthy history of ALL and past
   successful treatment of this, now with recurrence including CNS
   involvement, and likely enterococcal infection of an Omaya port used
   for intrathecal chemotherapy; s/p cardiac arrest, s/p removal of the
   Omaya port and evacuation of SDH; now returned to the [**Hospital Unit Name 10**] for further
   care and continued follow-up by both the ICU team and the BMT team.
   # VRE in CNS:  Blood cx negative since [**4-11**], but now enterococcus in
   CSF, presumably the same bacteria.  Omaya port which was seeded has now
   been removed.    Daptomycin was switched to linezolid for better CSF
   penetration, although linezolid will cause BM suppression.  Gentamicin
   for synergy.  TTE was negative for vegetation [**4-15**], but given new
   finding of likely VRE in CSF, suspicion is high for endocarditis.
   Would need 8 weeks of abx if vegetation present vs 4 week if only CNS
   infection s/p source removal.
   - continue linezolid and gentamicin
   - after discussion with ID and high trough, gentamicin dose decreased:
   will check level after 4th dose tomorrow PM
   - f/u culture data and sensitivities
   - TEE when stable for r/o vegetation
   - d/c meropenem now that low suspicion for any GNR process
   # HYPOTENSION:  New this morning, SBP 80s, did not respond to 750 cc
   bolus so far.  Lactate also elevated, likely secondary to poor
   perfusion.  Differential includes sepsis, and her new leukocytosis
   would go along with this (although she is  not neutropenic, on very
   broad abx coverage, and blood cx repeatedly negative).  Also on the
   differential are cardiogenic shock (EF recently 20% in the post-arrest
   period), volume depletion, adrenal insufficiency, CNS etiology, PE (but
   not hypoxic nor impressively more tachycardic).  Limbs are warm, neck
   veins difficult to assess, and there is some question about the
   accuracy of art line BP [**Location (un) 103**].  Regarding management, would prefer to
   give a pressor with inotropic activity such as levophed if needed.
   - check BP in all 4 limbs
   - assess neck veins
   - trend lactate
   - [**Last Name (un) **] stim
   - Infectious work-up:  repeat blood and urine cx, sputum cx, stool for
   c diff, monitor line for signs of infection
   - IVNS x 500 cc bolus now
   - consider Levophed if persistently hypotensive despite fluid boluses
   # ALTERED MENTAL STATUS:  Improved today in that she now withdraws to
   stimulation.  However, off sedation she is not alert or following
   commands.  This is likely multifactorial including recent SDH,
   prolonged asystolic arrest, CNS infection, possible recurrent CNS
   lymphoma.
   - follow neuro exam
   - would re-image head if exam deteriorates
   - f/u neurosurgery recs
   - f/u CNS cultures
   - discuss with BMT possible further treatment of CNS lymphoma, as
   below.
   .
   # ALL:  Most likely cause of her bump in WBC today is recovery of BM.
   Currently day +40 s/p hyper-CVAD.  She is also s/p intrathecal MTX and
   DLI this admission.  Per BMT, will need further treatment for CNS
   lymphoma in the future.
   - f/u BMT recommendations
   - now off filgastrim
   - follow CBC/diff
   - continue broad-spectrum antimicrobial including acyclovir, micafungin
   in addition to linezolid/gent.
   - discuss whether the fungal and viral coverage is still needed with
   BMT and ID
   .
   # RESPIRATORY FAILURE:  Intubated in the setting of cardiac arrest,
   with ongoing primary metabolic alkalosis.  Cause is most likely
   intracranial process (ongoing infection, recent surgery).  PE was on
   the differential but LENIs negative; unable to do CTA [**1-1**] contrast
   allergy.  There is some concern for the risk of seizure with alkalemia,
   but we are not able to give opiates to depress her respiratory drive
   because of hypotension.  Regarding her ventilated status, her
   neurologic exam is currently not such that she could protect her airway
   if extubated
   -continue mechanical ventilation at current settings for now
   - consider SBT if mental status improves.
   .
   # LEUKOCYTOSIS:   Most likely secondary to counts recovering after
   chemo (many immature forms), however very sharp bump today is also
   concerning for an infectious etiology.   She has been afebrile since
   her evacuation procedure and is on very broad coverage as above.  Will
   work-up for infectious cause as above.
   .
   # RASH:  Concerning for a drug allergy.  After discussion with ID,
   meropenem is a likely culprit. Although it has been on for a month, it
   is possible to develop a new rash after this time.  Would also be
   concerned that linezolid could be contributing, since this was recently
   started, although this drug is much less likely to cause rash.
   - stop meropenem, no longer  indicated anyway as above
   - follow clinically
   - would discuss if alternative antibiotic regimen could be constructed
   if rash persists/worsens and linezolid is possibly implicated
   # ELEVATED LIVER ENZYMES:  consistent with shock liver.  Now
   downtrending.  INR climbing, which may be secondary to synthetic
   dysfunction after hepatic injury.
   - continue to monitor LFTs and INR
   .
   # S/P ASYSTOLIC ARREST:  likely was secondary to CCB in the setting of
   a heart compromised by prior cardiotoxic chemotherapy.  Recent echo
   showed significant interval worsening of EF (40%-->20%) over the past 2
   weeks without any focal wall motion abnormalities.
   - repeat echo in [**3-4**] weeks
   - avoid nodal agents
   - replete lytes aggressively, with particular attention to calcium
   .
   # COAGULOPATHY:  per discussion with nursing, patient is bleeding from
   lines.  INR slightly elevated and climbing.  Concern for DIC in this
   woman with cancer and ongoing infection.
   - check now and  follow serial DIC labs
   ICU Care
   Nutrition:
   Comments: NPO for TEE today, restart TF after
   Glycemic Control:  insulin SS
   Lines:
   Multi Lumen - [**2176-4-14**] 06:36 AM
   20 Gauge - [**2176-4-14**] 03:41 PM
   Arterial Line - [**2176-4-16**] 12:48 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: full code (discussed with BMT and HCP)

2176-04-19 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2176-4-18**] 11:26 AM
 SPUTUM CULTURE - At [**2176-4-18**] 11:26 AM
 URINE CULTURE - At [**2176-4-18**] 11:26 AM
 BLOOD CULTURED - At [**2176-4-18**] 12:52 PM
   [**4-18**]
   - Hypotension during the afternoon requiring norepinephrine, on/off
   overnight for borderline BP
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Meropenem - [**2176-4-18**] 07:42 AM
   Micafungin - [**2176-4-18**] 07:35 PM
   Gentamicin - [**2176-4-18**] 08:59 PM
   Linezolid - [**2176-4-19**] 01:49 AM
   Acyclovir - [**2176-4-19**] 06:18 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-4-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-19**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 89 (80 - 110) bpm
   BP: 116/73(89) {73/47(58) - 136/86(104)} mmHg
   RR: 24 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  5,499 mL
                                                                  1,535 mL
   PO:
             TF:
                                                                    217 mL
                                                                    253 mL
   IVF:
                                                                  5,283 mL
                                                                  1,202 mL
   Blood products:
   Total out:
                                                                  1,358 mL
                                                                    288 mL
   Urine:
                                                                  1,163 mL
                                                                    288 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,141 mL
                                                                  1,247 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.45/24/134/15/-4
   Ve: 11 L/min
   PaO2 / FiO2: 335
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   90 K/uL
   12.3 g/dL
   157 mg/dL
   0.9 mg/dL
   15 mEq/L
   3.9 mEq/L
   33 mg/dL
   113 mEq/L
   140 mEq/L
   36.0 %
   30.3 K/uL
        [image002.jpg]
                             [**2176-4-16**]  02:04 PM
                             [**2176-4-17**]  02:03 AM
                             [**2176-4-17**]  04:06 AM
                             [**2176-4-17**]  05:28 PM
                             [**2176-4-18**]  03:55 AM
                             [**2176-4-18**]  04:32 AM
                             [**2176-4-18**]  02:42 PM
                             [**2176-4-18**]  07:36 PM
                             [**2176-4-19**]  12:29 AM
                             [**2176-4-19**]  04:24 AM
   WBC
   4.2
   7.9
   20.7
   30.3
   Hct
   27.2
   29.1
   33.0
   36.0
   Plt
   116
   97
   91
   90
   Cr
   1.1
   1.0
   0.9
   0.9
   TCO2
   20
   20
   20
   18
   17
   Glucose
   162
   102
   117
   157
   Other labs: PT / PTT / INR:15.0/34.3/1.3, ALT / AST:464/117, Alk Phos /
   T Bili:460/1.7, Amylase / Lipase:76/50, Differential-Neuts:83.0 %,
   Band:6.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:655 mg/dL,
   Lactic Acid:3.2 mmol/L, Albumin:2.1 g/dL, LDH:1213 IU/L, Ca++:7.6
   mg/dL, Mg++:2.5 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR [**4-18**]: ET tube projects 2 cm above the carina. Interval
   improvement in
   pulmonary edema. Cardiac size is top normal. Bibasilar atelectases
   greater
   on the left side are unchanged. There is increase in left perihilar
   opacity
   to suggest atelectasis.
   CXR:
   Microbiology: bxc [**Date range (1) 6111**] ngtd
   ucx ngtd
   cryptococcus negative
   VRE (also amp R, linezolid S) in CSF [**4-15**]
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   This is a 60 year old woman with a lengthy history of ALL and past
   successful treatment of this, now with recurrence including CNS
   involvement, and likely enterococcal infection of an Omaya port used
   for intrathecal chemotherapy; s/p cardiac arrest, s/p removal of the
   Omaya port and evacuation of SDH; now returned to the [**Hospital Unit Name 10**] for further
   care and continued follow-up by both the ICU team and the BMT team.
   # VRE in CNS:  Blood cx negative since [**4-11**], but now enterococcus in
   CSF, presumably the same bacteria.  Omaya port which was seeded has now
   been removed.    Daptomycin was switched to linezolid for better CSF
   penetration, although linezolid will cause BM suppression.  Gentamicin
   for synergy.  TTE was negative for vegetation [**4-15**], but given new
   finding of likely VRE in CSF, suspicion is high for endocarditis.
   Would need 8 weeks of abx if vegetation present vs 4 week if only CNS
   infection s/p source removal.
   - continue linezolid and gentamicin
   - after discussion with ID and high trough, gentamicin dose decreased:
   will check level after 4th dose tomorrow PM
   - f/u culture data and sensitivities
   - TEE when stable for r/o vegetation
   - d/c meropenem now that low suspicion for any GNR process
   # HYPOTENSION:  New this morning, SBP 80s, did not respond to 750 cc
   bolus so far.  Lactate also elevated, likely secondary to poor
   perfusion.  Differential includes sepsis, and her new leukocytosis
   would go along with this (although she is  not neutropenic, on very
   broad abx coverage, and blood cx repeatedly negative).  Also on the
   differential are cardiogenic shock (EF recently 20% in the post-arrest
   period), volume depletion, adrenal insufficiency, CNS etiology, PE (but
   not hypoxic nor impressively more tachycardic).  Limbs are warm, neck
   veins difficult to assess, and there is some question about the
   accuracy of art line BP [**Location (un) 103**].  Regarding management, would prefer to
   give a pressor with inotropic activity such as levophed if needed.
   - check BP in all 4 limbs
   - assess neck veins
   - trend lactate
   - [**Last Name (un) **] stim
   - Infectious work-up:  repeat blood and urine cx, sputum cx, stool for
   c diff, monitor line for signs of infection
   - IVNS x 500 cc bolus now
   - consider Levophed if persistently hypotensive despite fluid boluses
   # ALTERED MENTAL STATUS:  Improved today in that she now withdraws to
   stimulation.  However, off sedation she is not alert or following
   commands.  This is likely multifactorial including recent SDH,
   prolonged asystolic arrest, CNS infection, possible recurrent CNS
   lymphoma.
   - follow neuro exam
   - would re-image head if exam deteriorates
   - f/u neurosurgery recs
   - f/u CNS cultures
   - discuss with BMT possible further treatment of CNS lymphoma, as
   below.
   .
   # ALL:  Most likely cause of her bump in WBC today is recovery of BM.
   Currently day +40 s/p hyper-CVAD.  She is also s/p intrathecal MTX and
   DLI this admission.  Per BMT, will need further treatment for CNS
   lymphoma in the future.
   - f/u BMT recommendations
   - now off filgastrim
   - follow CBC/diff
   - continue broad-spectrum antimicrobial including acyclovir, micafungin
   in addition to linezolid/gent.
   - discuss whether the fungal and viral coverage is still needed with
   BMT and ID
   .
   # RESPIRATORY FAILURE:  Intubated in the setting of cardiac arrest,
   with ongoing primary metabolic alkalosis.  Cause is most likely
   intracranial process (ongoing infection, recent surgery).  PE was on
   the differential but LENIs negative; unable to do CTA [**1-1**] contrast
   allergy.  There is some concern for the risk of seizure with alkalemia,
   but we are not able to give opiates to depress her respiratory drive
   because of hypotension.  Regarding her ventilated status, her
   neurologic exam is currently not such that she could protect her airway
   if extubated
   -continue mechanical ventilation at current settings for now
   - consider SBT if mental status improves.
   .
   # LEUKOCYTOSIS:   Most likely secondary to counts recovering after
   chemo (many immature forms), however very sharp bump today is also
   concerning for an infectious etiology.   She has been afebrile since
   her evacuation procedure and is on very broad coverage as above.  Will
   work-up for infectious cause as above.
   .
   # RASH:  Concerning for a drug allergy.  After discussion with ID,
   meropenem is a likely culprit. Although it has been on for a month, it
   is possible to develop a new rash after this time.  Would also be
   concerned that linezolid could be contributing, since this was recently
   started, although this drug is much less likely to cause rash.
   - stop meropenem, no longer  indicated anyway as above
   - follow clinically
   - would discuss if alternative antibiotic regimen could be constructed
   if rash persists/worsens and linezolid is possibly implicated
   # ELEVATED LIVER ENZYMES:  consistent with shock liver.  Now
   downtrending.  INR climbing, which may be secondary to synthetic
   dysfunction after hepatic injury.
   - continue to monitor LFTs and INR
   .
   # S/P ASYSTOLIC ARREST:  likely was secondary to CCB in the setting of
   a heart compromised by prior cardiotoxic chemotherapy.  Recent echo
   showed significant interval worsening of EF (40%-->20%) over the past 2
   weeks without any focal wall motion abnormalities.
   - repeat echo in [**3-4**] weeks
   - avoid nodal agents
   - replete lytes aggressively, with particular attention to calcium
   .
   # COAGULOPATHY:  per discussion with nursing, patient is bleeding from
   lines.  INR slightly elevated and climbing.  Concern for DIC in this
   woman with cancer and ongoing infection.
   - check now and  follow serial DIC labs
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-4-19**] 06:27 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-14**] 06:36 AM
   20 Gauge - [**2176-4-14**] 03:41 PM
   Arterial Line - [**2176-4-16**] 12:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-04-20 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2176-4-19**] 03:01 PM
   - Extubated, with improved mental status over the course of the day and
   able to respond verbally and follow comands by evening
   - No TEE done
   - CVL femoral ok to stay unless spikes again
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Meropenem - [**2176-4-18**] 07:42 AM
   Gentamicin - [**2176-4-19**] 09:57 AM
   Micafungin - [**2176-4-19**] 07:58 PM
   Linezolid - [**2176-4-20**] 02:33 AM
   Acyclovir - [**2176-4-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2176-4-19**] 06:25 PM
   Heparin Sodium (Prophylaxis) - [**2176-4-19**] 11:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-20**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.4
C (95.8
   HR: 88 (83 - 107) bpm
   BP: 119/76(93) {88/60(72) - 132/87(105)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,364 mL
                                                                    568 mL
   PO:
             TF:
                                                                    542 mL
   IVF:
                                                                  2,743 mL
                                                                    568 mL
   Blood products:
   Total out:
                                                                  2,958 mL
                                                                    975 mL
   Urine:
                                                                  2,808 mL
                                                                    975 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    406 mL
                                                                   -408 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 330 (330 - 451) mL
   PS : 0 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: 7.48/28/124/19/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Eyes / Conjunctiva: pupils equal and reactive
   Head, Ears, Nose, Throat: Endotracheal tube, dressing in place
   Cardiovascular: normal S1/S2
   Peripheral Vascular: DP pulses intact
   Respiratory / Chest: lungs clear anteriorly
   Abdominal: Soft, Bowel sounds present, ostomy bag in place with  brown
   liquid stool, no apparent abdominal tenderness
   Extremities: warm
   Skin:  diffuse maculopapular erythematous, blanching rash on back
   Neurologic: pupils equal and reactive does not follow commands,
   clinches eyes when they are opened, withdraws to stimulation
   Labs / Radiology
   75 K/uL
   11.2 g/dL
   117 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.7 mEq/L
   31 mg/dL
   111 mEq/L
   140 mEq/L
   31.3 %
   27.0 K/uL
        [image002.jpg]
                             [**2176-4-18**]  07:36 PM
                             [**2176-4-19**]  12:29 AM
                             [**2176-4-19**]  04:24 AM
                             [**2176-4-19**]  09:46 AM
                             [**2176-4-19**]  01:59 PM
                             [**2176-4-19**]  03:40 PM
                             [**2176-4-19**]  04:18 PM
                             [**2176-4-20**]  12:39 AM
                             [**2176-4-20**]  12:47 AM
                             [**2176-4-20**]  05:42 AM
   WBC
   30.3
   27.0
   Hct
   36.0
   29.9
   29.8
   31.3
   Plt
   90
   75
   Cr
   0.9
   0.9
   0.9
   0.9
   TCO2
   17
   16
   18
   18
   21
   Glucose
   117
   157
   157
   137
   117
   Other labs: PT / PTT / INR:15.0/33.9/1.3, ALT / AST:262/68, Alk Phos /
   T Bili:447/1.3, Amylase / Lipase:76/50, Differential-Neuts:83.0 %,
   Band:6.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:655 mg/dL,
   Lactic Acid:2.5 mmol/L, Albumin:2.1 g/dL, LDH:863 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Since yesterday, ETT tip is now in expected position. Nasogastric tube
   ends
   below the diaphragm with its tip not imaged on this study. Pulmonary
   edema
   improved. Small left pleural effusion is unchanged. Severe left basal
   atelectasis is unchanged. Milder atelectasis at the right base is also
   stable. Heart size and hilar contours are normal.
   [**4-16**] CSF:   VRE (tigecycline sensitivities pending)
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   This is a 60 year old woman with a lengthy history of ALL and past
   successful treatment of this, now with recurrence including CNS
   involvement, and likely enterococcal infection of an Omaya port used
   for intrathecal chemotherapy; s/p cardiac arrest & intubated since, s/p
   removal of the Omaya port and evacuation of SDH.
   # VRE in CNS:  Blood cx negative since [**4-11**], but now with VRE (amp R,
   linezolid S)  in CSF, presumably the same bacteria which was in the
   blood previously.  Omaya port which was seeded has now been removed.
   Daptomycin was switched to linezolid for better CSF penetration,
   although linezolid will cause BM suppression.  Gentamicin for synergy.
   TTE was negative for vegetation [**4-15**], but given new finding of likely
   VRE in CSF, but sensitivity clearly less than TEE.  Would need 8 weeks
   of abx if vegetation present vs 4 week if only CNS infection s/p source
   removal.
   - continue linezolid (D1=[**4-16**]) and gentamicin (D1=[**4-15**])
   - after discussion with ID and high trough, gentamicin dose decreased
   TO Q 24
   - f/u culture data and sensitivities
   - TEE when stable for r/o vegetation to determine lenghth of TX
   - meropenem d/c
ed ([**4-18**]) now that low suspicion for any GNR process
   - d/w micro re: additional sensitivities: tigacycline?
   # HYPOTENSION:  New on [**4-18**],  did not respond to bolus and required
   levophed until this morning.  Lactate also elevated, likely secondary
   to poor perfusion.  Differential includes sepsis, and her new
   leukocytosis would go along with this (although ID feels that this is
   more likely [**1-1**] G-CSF and blood cx repeatedly negative).  Also on the
   differential are cardiogenic shock (EF recently 20% in the post-arrest
   period), volume depletion, CNS etiology. Adreanl insufficeincy r/o by
   [**Last Name (un) **] stim. Limbs are warm, neck veins difficult to assess, and there is
   some question about the accuracy of art line BP [**Location (un) 103**].
   - monitor BP of pressors, low threshold to resume levophed to maintain
   MAP > 65
   - trend lactate
   # ALTERED MENTAL STATUS:  Improved today in that she now withdraws to
   stimulation.  This is likely multifactorial including recent SDH,
   prolonged asystolic arrest, CNS infection, possible recurrent CNS
   lymphoma.
   - follow neuro exam
   - would re-image head if exam deteriorates; per neuro no role curretly
   for repeat LP
   - f/u neurosurgery recs
   - f/u CNS cultures
   - discuss with BMT possible further treatment of CNS lymphoma, as
   below.
   .
   # ALL:  Currently day +40 s/p hyper-CVAD.  She is also s/p intrathecal
   MTX and DLI this admission.  Per BMT, will need further treatment for
   CNS lymphoma in the future.
   - f/u BMT recommendations
   - now off filgastrim
   - follow CBC/diff
   - continue broad-spectrum antimicrobial including acyclovir, micafungin
   in addition to linezolid/gent.
   .
   # RESPIRATORY FAILURE:  Intubated in the setting of cardiac arrest.
   Cause is most likely intracranial process (ongoing infection, recent
   surgery).  PE was on the differential but LENIs negative; unable to do
   CTA [**1-1**] contrast allergy.  There is some concern for the risk of
   seizure with alkalemia, but we are not able to give opiates to depress
   her respiratory drive because of hypotension.  Previously mental status
   has been major boundary to extubation, but improvement today permits
   SBT
   - SBT with possible extubation
   .
   # LEUKOCYTOSIS:   Most likely secondary to counts recovering after
   chemo (many immature forms) and GCSF, however very CONTINUED bump today
   to 30 is also concerning.   She has been afebrile since her evacuation
   procedure and is on very broad coverage as above.  Will work-up for
   infectious cause as above.
   .
   # RASH:  Concerning for a drug allergy.  After discussion with ID,
   meropenem is a likely culprit. Although it has been on for a month, it
   is possible to develop a new rash after this time.  Would also be
   concerned that linezolid could be contributing, since this was recently
   started, although this drug is much less likely to cause rash.
   - monitor rash now off meropenem
   # ELEVATED LIVER ENZYMES:  consistent with shock liver.  Now
   downtrending.
   - continue to monitor LFTs and INR
   .
   # S/P ASYSTOLIC ARREST:  temporally realted to CCB in the setting of a
   heart compromised by prior cardiotoxic chemotherapy.  Recent echo
   showed significant interval worsening of EF (40%-->20%) over the past 2
   weeks without any focal wall motion abnormalities.
   - repeat echo in [**3-4**] weeks
   - avoid nodal agents
   - replete lytes aggressively, with particular attention to calcium
   .
   # COAGULOPATHY:  per discussion with nursing, patient is bleeding from
   lines.  INR slightly elevated.  Some concern for DIC in this woman with
   cancer and ongoing infection.
   - check now and  follow serial DIC labs
   ICU Care
   Nutrition:  tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-14**] 06:36 AM
   Arterial Line - [**2176-4-16**] 12:48 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-04-21 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   NGT placed/TF started
   Femoral line changed over wire by IR
   c diff x 2 negative, 3rd pending
   d/c'ed gentamicin per ID
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Meropenem - [**2176-4-18**] 07:42 AM
   Gentamicin - [**2176-4-20**] 08:00 AM
   Micafungin - [**2176-4-20**] 07:35 PM
   Linezolid - [**2176-4-21**] 02:30 AM
   Acyclovir - [**2176-4-21**] 06:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-4-20**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2176-4-20**] 01:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-21**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 98 (82 - 105) bpm
   BP: 128/83(101) {95/60(74) - 128/83(101)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,500 mL
                                                                    532 mL
   PO:
             TF:
             86 mL
   IVF:
                                                                  1,500 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                  2,044 mL
                                                                    335 mL
   Urine:
                                                                  2,044 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -544 mL
                                                                    197 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   Eyes / Conjunctiva: pupils equal and reactive, alert, appropriate,
   following commans
   Head, Ears, Nose, Throat:  face tent, breathing comfortably
   Cardiovascular: normal S1/S2
   Peripheral Vascular: DP pulses intact
   Respiratory / Chest: lungs clear anteriorly
   Abdominal: Soft, Bowel sounds present, ostomy bag in place with  brown
   liquid stool, no apparent abdominal tenderness
   Extremities: warm
   Skin:  diffuse maculopapular erythematous, blanching rash on back,
   appears less erythematous than yesterday
   Neurologic: following commands and answering appropriately, can name
   [**1-2**] children
   Labs / Radiology
   73 K/uL
   11.0 g/dL
   111 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.6 mEq/L
   28 mg/dL
   109 mEq/L
   137 mEq/L
   32.2 %
   23.7 K/uL
        [image002.jpg]  Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Differential-Neuts:87.0 %, Band:5.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:0.0
   %,
                             [**2176-4-19**]  12:29 AM
                             [**2176-4-19**]  04:24 AM
                             [**2176-4-19**]  09:46 AM
                             [**2176-4-19**]  01:59 PM
                             [**2176-4-19**]  03:40 PM
                             [**2176-4-19**]  04:18 PM
                             [**2176-4-20**]  12:39 AM
                             [**2176-4-20**]  12:47 AM
                             [**2176-4-20**]  05:42 AM
                             [**2176-4-21**]  04:38 AM
   WBC
   30.3
   27.0
   32.1
   23.7
   Hct
   36.0
   29.9
   29.8
   31.3
   32.2
   Plt
   90
   75
   73
   73
   Cr
   0.9
   0.9
   0.9
   0.9
   TCO2
   17
   16
   18
   18
   21
   Glucose
   157
   157
   137
   117
   111
   ALT: 161 AP: 455 Tbili: 1.1
   AST: 52 LDH: 721
   PT: 15.2  PTT: 34.3  INR: 1.3
   Fibrinogen: 484
   Imaging: None
   Microbiology: [**4-21**]: Cath tip culture P
   [**Date range (1) 6157**] BCx pending
   Assessment and Plan
   A 60 year old woman with recurrent ALL with CNS involvement s/p Omaya
   removal due to VRE contamination & SDH evacuation.  She is now doing
   well and awake s/p extubation, afebrile and her WBC count is trending
   downward.
   # CNS VRE:  S/P Omaya removal, on linezolid for greater CNS penetration
   despite risk of CNS penetration. No TEE performed.  Will need 4-8 weeks
   of Linezolid.
   - continue linezolid (D1=[**4-16**]), gentamicin D/C
d per ID
   - f/u culture data and sensitivities
   - ?TEE next week for r/o vegetation to determine lenghth of TX
   - f/u tigacycline sensitivities as this may be a better choice in the
   long-run
   # LEUKOCYTOSIS:   GCSF vs culture negative bacteremia, c. diff, ALL.
   Diff not consistent with return of ALL. C diff negative x 2.
   - f/u repeat c diff
   - f/u blood and sputum cx
   # ALL:  Currently day +43 s/p hyper-CVAD.  She is also s/p intrathecal
   MTX and DLI this admission.  Per BMT, will need further treatment for
   CNS lymphoma in the future.
   - f/u BMT recommendations
   - now off filgastrim
   - follow CBC/diff
   - continue broad-spectrum antimicrobial including acyclovir, micafungin
   in addition to linezolid
   # RESPIRATORY FAILURE:  Now extubated, oxygenating well on face tent
   and with improvement in respiratory alkalosis.
   Likely has some volume overload as seen on cxr but making good urine.
   - allow auto-diuresis, aim for net even to negative.
   # DRUH RASH:  Appears improved today.  Evidence suggests this is due to
   Meropenem.
   # ELEVATED LIVER ENZYMES:  Consistent with shock liver, resolving.
   -Trend LFTs and INR
   # S/P ASYSTOLIC ARREST:  temporally related to CCB in the setting of a
   heart compromised by prior cardiotoxic chemotherapy.  Recent echo
   showed significant interval worsening of EF (40%-->20%) over the past 2
   weeks without any focal wall motion abnormalities.
   - repeat echo in [**3-4**] weeks
   - avoid nodal agents
   - replete lytes aggressively, with particular attention to calcium
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-4-21**] 02:53 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-14**] 06:36 AM
   Arterial Line - [**2176-4-16**] 12:48 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU/Potential floor transfer

2176-04-22 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2176-4-21**] 06:00 PM
   - Called out, bed assigned then ID attending expressed concern about
   her floor suitability, recommended staying in the ICU
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Gentamicin - [**2176-4-20**] 08:00 AM
   Micafungin - [**2176-4-21**] 08:00 PM
   Linezolid - [**2176-4-22**] 02:21 AM
   Acyclovir - [**2176-4-22**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-4-21**] 08:01 AM
   Heparin Sodium (Prophylaxis) - [**2176-4-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-22**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 106 (96 - 114) bpm
   BP: 106/73(79) {101/58(69) - 119/83(90)} mmHg
   RR: 16 (16 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,817 mL
                                                                    621 mL
   PO:
             TF:
                                                                    422 mL
                                                                    191 mL
   IVF:
                                                                    925 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    950 mL
   Urine:
                                                                  1,475 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    342 mL
                                                                   -329 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   78 K/uL
   10.6 g/dL
   122 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.6 mEq/L
   25 mg/dL
   105 mEq/L
   137 mEq/L
   31.5 %
   17.9 K/uL
        [image002.jpg]
                             [**2176-4-19**]  09:46 AM
                             [**2176-4-19**]  01:59 PM
                             [**2176-4-19**]  03:40 PM
                             [**2176-4-19**]  04:18 PM
                             [**2176-4-20**]  12:39 AM
                             [**2176-4-20**]  12:47 AM
                             [**2176-4-20**]  05:42 AM
                             [**2176-4-21**]  04:38 AM
                             [**2176-4-21**]  02:57 PM
                             [**2176-4-22**]  04:17 AM
   WBC
   27.0
   32.1
   23.7
   17.9
   Hct
   29.9
   29.8
   31.3
   32.2
   31.5
   Plt
   75
   73
   73
   78
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   16
   18
   18
   21
   Glucose
   157
   137
   117
   111
   185
   122
   Other labs: PT / PTT / INR:14.2/63.8/1.2, ALT / AST:119/52, Alk Phos /
   T Bili:562/0.8, Amylase / Lipase:76/50, Differential-Neuts:78.0 %,
   Band:7.0 %, Lymph:2.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:484 mg/dL,
   Lactic Acid:2.5 mmol/L, Albumin:2.1 g/dL, LDH:737 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Microbiology: BCX: [**4-16**], [**4-17**], [**4-18**], [**4-19**], ALL NGTD
   UCX: [**4-18**] NGTD
   CDIFF negative x3, [**4-22**] PENDING
   Fem Line Cx NGTD
   Assessment and Plan
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   A 60 year old woman with recurrent ALL with CNS involvement s/p Omaya
   removal due to VRE contamination & SDH evacuation.  She is now doing
   well and awake s/p extubation, afebrile and her WBC count is trending
   downward.
   # CNS VRE:  S/P Omaya removal, on linezolid for greater CNS penetration
   despite risk of CNS penetration. No TEE performed.
   - continue linezolid (D1=[**4-16**]), course to be determined by TEE (4 vs 8
   weeks) gentamicin D/C
d per ID
   - f/u culture data and sensitivities
   - TEE deferred at this time.
   - f/u tigacycline sensitivities for long-term therapy
   # LEUKOCYTOSIS:   GCSF vs culture negative bacteremia, c. diff, ALL.
   Diff not consistent with return of ALL. C diff negative x 2.
   - f/u repeat c diff
   - f/u blood and sputum cx
   # ALL:  Currently day +43 s/p hyper-CVAD.  She is also s/p intrathecal
   MTX and DLI this admission.  Per BMT, will need further treatment for
   CNS lymphoma in the future.
   - f/u BMT recommendations
   - follow CBC/diff
   - continue acyclovir, micafungin in addition to linezolid
   # DRUG RASH:  Appears improved today.  Evidence suggests this is due to
   Meropenem.
   # ELEVATED LIVER ENZYMES:  Consistent with shock liver, resolving.
   -Trend LFTs and INR
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-4-21**] 02:53 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-14**] 06:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CALL OUT TO FLOOR

2176-04-22 16:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2176-4-21**] 06:00 PM
   - Called out, bed assigned then ID attending expressed concern about
   her floor suitability, recommended staying in the ICU
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Penicillins
   Rash;
   Latex
   Hives; Wheezing
   Red Dye
   Headache; "thra
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   Nausea/Vomiting
   Aspirin
   Nausea/Vomiting
   Aspartame
   Unknown;
   Fentanyl
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Gentamicin - [**2176-4-20**] 08:00 AM
   Micafungin - [**2176-4-21**] 08:00 PM
   Linezolid - [**2176-4-22**] 02:21 AM
   Acyclovir - [**2176-4-22**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-4-21**] 08:01 AM
   Heparin Sodium (Prophylaxis) - [**2176-4-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-22**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 106 (96 - 114) bpm
   BP: 106/73(79) {101/58(69) - 119/83(90)} mmHg
   RR: 16 (16 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,817 mL
                                                                    621 mL
   PO:
             TF:
                                                                    422 mL
                                                                    191 mL
   IVF:
                                                                    925 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    950 mL
   Urine:
                                                                  1,475 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    342 mL
                                                                   -329 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   78 K/uL
   10.6 g/dL
   122 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.6 mEq/L
   25 mg/dL
   105 mEq/L
   137 mEq/L
   31.5 %
   17.9 K/uL
        [image002.jpg]
                             [**2176-4-19**]  09:46 AM
                             [**2176-4-19**]  01:59 PM
                             [**2176-4-19**]  03:40 PM
                             [**2176-4-19**]  04:18 PM
                             [**2176-4-20**]  12:39 AM
                             [**2176-4-20**]  12:47 AM
                             [**2176-4-20**]  05:42 AM
                             [**2176-4-21**]  04:38 AM
                             [**2176-4-21**]  02:57 PM
                             [**2176-4-22**]  04:17 AM
   WBC
   27.0
   32.1
   23.7
   17.9
   Hct
   29.9
   29.8
   31.3
   32.2
   31.5
   Plt
   75
   73
   73
   78
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   16
   18
   18
   21
   Glucose
   157
   137
   117
   111
   185
   122
   Other labs: PT / PTT / INR:14.2/63.8/1.2, ALT / AST:119/52, Alk Phos /
   T Bili:562/0.8, Amylase / Lipase:76/50, Differential-Neuts:78.0 %,
   Band:7.0 %, Lymph:2.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:484 mg/dL,
   Lactic Acid:2.5 mmol/L, Albumin:2.1 g/dL, LDH:737 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Microbiology: BCX: [**4-16**], [**4-17**], [**4-18**], [**4-19**], ALL NGTD
   UCX: [**4-18**] NGTD
   CDIFF negative x3, [**4-22**] PENDING
   Fem Line Cx NGTD
   Assessment and Plan
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 .H/O LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   A 60 year old woman with recurrent ALL with CNS involvement s/p Omaya
   removal due to VRE contamination & SDH evacuation.  Intubated for
   cardiac arrest thought to be secondary to CCB in the setting of
   hypocalcemia. She is now doing well and awake s/p extubation, afebrile
   and her WBC count is trending downward.
   # CNS VRE:  S/P Omaya removal, on linezolid for greater CNS penetration
   (compared to daptomycin) despite risk of CNS penetration. No VRE in
   blood for over one week.
   - continue linezolid (D1=[**4-16**]), course to be determined by TEE (4 vs 8
   weeks); gentamicin D/C
d per ID
   - f/u culture data and sensitivities
   - TEE deferred at this time given recent extubation, would pursue
   within one week.
   - f/u tigacycline sensitivities for long-term therapy
   # LEUKOCYTOSIS:   GCSF vs culture negative bacteremia vs c. diff vs
   ALL.  Diff not consistent with return of ALL per BMT. C diff negative x
   3 with a fourth pending. According to ID, timing and pattern fits best
   with GCST effect.  Now trending down over last two days.
   - f/u repeat c diff
   - f/u blood and sputum cx
   - continue to trend with differential
   # ALL:  Currently day +43 s/p hyper-CVAD.  She is also s/p intrathecal
   MTX and DLI this admission.  Per BMT, will need further treatment for
   CNS lymphoma in the future.
   - f/u BMT recommendations
   - follow CBC/diff
   - continue acyclovir, micafungin in addition to linezolid
   # DRUG RASH:  Appears improved today.  Evidence suggests this is due to
   Meropenem.
   # ELEVATED LIVER ENZYMES:  Consistent with shock liver, resolving.  Alk
   P only marker not trending down. Abd exam benign, would continue to
   trend at this point.
   -Trend LFTs and INR
   # Elevated PTT: Isolated elevation today, [**Last Name **] problem: Likely a
   spurious lab value; will repeat, if truly high, will send mixing
   studies
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-4-21**] 02:53 AM 30 mL/hour
 consider S+S
   eval
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-4-14**] 06:36 AM ***(FEMORAL)***
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CALL OUT TO FLOOR
   ------ Protected Section ------
   Physical Exam: Vitals as above:
   Clean stapled incision over right  head.
   Good arir movt bilaterally with crackles at bases and mild diffuse
   ronchi
   RRR no M/r/g
   Neuro: maintains appropriate eye contact. Intermittently conversant
   (limited to [**12-1**] word answers); moves all 4 ext, but not always to
   commands, CN2-12 intact, affect blunted
   Abd: ostomy in place, NTND +BS
   ------ Protected Section Addendum Entered By:[**Name (NI) 6135**] [**Name8 (MD) 5998**], MD
   on:[**2176-4-22**] 17:02 ------